2179-06-11 07:23:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - Extubated at 1530, initially required FiO2 100% on FM, titrated down
   to 40%. ABG post-extubation 7.35/40/94/23.
   - Given lasix 20 mg IV X 1
   - Pain service/anesthesia doubled concentration of hydromorphine in
   epidural. Plan to d/c epidural in am.
   - Transfused 1 unit pRBC with Hct 28.3 -> 30.0
   - Continue to hold Metoprolol
   -reports feeling itchy this AM, no SOB, [**10-9**] pain in right leg
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2179-6-10**] 11:39 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-6-11**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.7
C (98
   HR: 87 (84 - 104) bpm
   BP: 140/42(69) {88/39(55) - 140/56(81)} mmHg
   RR: 32 (21 - 32) insp/min
   SpO2: 93%
   Heart rhythm: RBBB (Right Bundle Branch Block)
             Total In:
                                                                  1,505 mL
                                                                     73 mL
   PO:
             TF:
   IVF:
                                                                    755 mL
                                                                     73 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,495 mL
                                                                    360 mL
   Urine:
                                                                  1,825 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
                                                                    670 mL
                                                                     70 mL
   Balance:
                                                                   -990 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 588 (391 - 588) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.34/44/71/22/-2
   Ve: 13.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   VS: 99.5, 78, 109/44, 38, 100% on vent
   GEN: extubated, responsive, on face [**Year (4 digits) 1269**]
   HEENT: pupils reactive, MMM
   CHEST: CTA B, no wheezing
   CV: RRR, no M
   ABD: soft, NT, ND, +BS
   EXT: brace on right leg, jp drain in bloody drainage, ext warm, aline
   in left wrist
   Labs / Radiology
   137 K/uL
   10.2 g/dL
   98 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   30 mg/dL
   110 mEq/L
   141 mEq/L
   29.2 %
   17.5 K/uL
        [image002.jpg]
                             [**2179-6-9**]  11:57 PM
                             [**2179-6-10**]  03:59 AM
                             [**2179-6-10**]  04:13 AM
                             [**2179-6-10**]  08:48 AM
                             [**2179-6-10**]  10:34 AM
                             [**2179-6-10**]  03:29 PM
                             [**2179-6-10**]  04:21 PM
                             [**2179-6-10**]  08:09 PM
                             [**2179-6-10**]  08:32 PM
                             [**2179-6-11**]  04:44 AM
   WBC
   21.2
   19.8
   17.5
   Hct
   31.2
   28.2
   30.0
   29.2
   Plt
   176
   154
   137
   Cr
   1.0
   1.1
   0.8
   TCO2
   25
   25
   24
   22
   23
   25
   Glucose
   105
   90
   98
   Other labs: PT / PTT / INR:14.8/36.8/1.3, Differential-Neuts:85.9 %,
   Lymph:7.4 %, Mono:4.1 %, Eos:2.4 %, Lactic Acid:1.1 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.4 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   67M w CAD with CABG, COPD, PVD, now s/p resection of osteosarcoma of
   right leg with inability to extubate and continued drainage from leg
   drain.
   .
   # Resp Failure: Has hx of COPD on oxygen at home, now extubated.
   Concern for possible fat emboli during procedure.
   - now on oxygen, face [**Last Name (LF) 1269**], [**First Name3 (LF) 124**] wean to nasal cannula if iproves with
   diuresis. Likely now with increased fluid due to transfusions.
   - lasix 20 IV x 1
   - Nebs Q6H
   - consider steroids if not improving with diuresis
   .
   # Pain: s/p resection and reconstruction of right leg. Has epidural
   dose increased again this AM
   - goal to remove epidural tomorrow
   - anesth recs
   .
   # Hypotension: BP now improved, still has a-line
   - giving blood PRN
   - holding metoprolol home dose
   - consider removal of a-line today
   .
   # Anemia:
   - serial hcts
   - active type and sceen with crossmatched units
   - transfuse to >30 while actively bleeding
   .
   # Osteosarcoma: Resection of tumor in right leg today, complicated by
   above issues.
   - ortho following
   .
   # Hypertension: Now more hypotensive (see above).
   - hold home metoprolol, will consider starting later today if BP stable
   at 12.5mg [**Hospital1 **]
   - hold ace-i for now
   .
   # PVD:
   - continued statin
   .
   # Hyperlipidemia:
   - continue statin
   .
   # Access:
   - PIV and a-line for now, will remove a-line
   \.
   # FEN:
   - will start clears today
   .
   # PPx:
   - lovenox for leg surgery
   .
   ICU Care
   Nutrition: will start clears later today
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-6-9**] 08:00 PM
   16 Gauge - [**2179-6-9**] 10:40 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely transfer to ortho once oxygen requirement is
   reduced, possible tomorrow

2179-06-12 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2179-6-11**] 03:02 PM
   - pain service recs to leave epidural in place unit l6/14, increased
   rate to 14ml/hr and gave 6ml bolus, pain then better controlled
   - OOB to chair, PWB with right leg
   - continued lovenox
   - [**Doctor First Name **], started clears
   - diuresed with lasix 20 IV lasix at noon
   - removed a-line
   - Continued to required face mask at 45%, even with diuresis, so
   concern for PE
   - CTA with prelim read-
   No pulmonary embolus. Extensive emphysema, with new bilateral pleural
   effusions, right greater than left, and increased consolidation at the
   right
   lung base, which could reflect sequelae of aspiration.
    - started levo and flagyl
   - sputum cx sent
   - c/o itching around epidural
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2179-6-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2179-6-11**] 06:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-6-12**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 84 (83 - 97) bpm
   BP: 150/63(85) {121/42(63) - 159/69(88)} mmHg
   RR: 27 (17 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,440 mL
                                                                     74 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    290 mL
                                                                     74 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,335 mL
                                                                    285 mL
   Urine:
                                                                  3,065 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
                                                                    270 mL
                                                                     30 mL
   Balance:
                                                                 -1,895 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   VS: 6L NC, RR in 20s-30s,
   GEN: extubated, responsive, NAD
   HEENT: pupils reactive, MMM
   CHEST: CTA B, no wheezing
   CV: RRR, no M
   ABD: soft, NT, ND, +BS
   BACK: epidural in place, large amount of tape and dressing, no rash
   EXT: brace on right leg, jp drain in bloody drainage, ext warm
   Labs / Radiology
   134 K/uL
   10.4 g/dL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   22 mg/dL
   108 mEq/L
   140 mEq/L
   30.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2179-6-10**]  08:48 AM
                             [**2179-6-10**]  10:34 AM
                             [**2179-6-10**]  03:29 PM
                             [**2179-6-10**]  04:21 PM
                             [**2179-6-10**]  08:09 PM
                             [**2179-6-10**]  08:32 PM
                             [**2179-6-11**]  04:44 AM
                             [**2179-6-11**]  01:08 PM
                             [**2179-6-11**]  06:29 PM
                             [**2179-6-12**]  04:37 AM
   WBC
   19.8
   17.5
   12.2
   Hct
   28.2
   30.0
   29.2
   29.8
   32.6
   30.0
   Plt
   154
   137
   134
   Cr
   1.1
   0.8
   0.7
   TCO2
   24
   22
   23
   25
   Glucose
   90
   98
   111
   Other labs: PT / PTT / INR:13.2/34.1/1.1, Differential-Neuts:85.9 %,
   Lymph:7.4 %, Mono:4.1 %, Eos:2.4 %, Lactic Acid:1.1 mmol/L, Ca++:8.1
   mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   67M w CAD with CABG, COPD, PVD, now s/p resection of osteosarcoma of
   right leg with inability to extubate and continued drainage from leg
   drain, no extubated.
   .
   # Resp Failure: Has hx of COPD on oxygen at home, now extubated. Slight
   concern for possible fat emboli during procedure, but more concern of
   pneumonia. CT of chest with likely aspiration PNA in RML, last night
   was started on abx.
   - continue levo/flagyl
   - work on weaning oxygen as tolerated
   - sputum cx
   - lasix 20 IV today with goal -1L
   - Nebs Q6H
   - consider steroids if not improving
   .
   # Pain: s/p resection and reconstruction of right leg. Has epidural,
   pain well controlled.
   - goal to remove epidural tomorrow
   - anesth recs
   .
   # Hypotension: BP now improved, now more hypertensive
   -          monitor BP
   # Itching: Either from epidural medication or from the dressing. No
   rash present
   - nadryl trial, and then will try atarax
   - cold compress PRN
   - remove epidural tomorrow (already had lovenox)
   .
   # Anemia: Secondary to surgery. Hct stable at 30.
   - serial hcts, [**Hospital1 **]
   - active type and sceen with crossmatched units
   - transfuse to >30 while actively bleeding
   .
   # Osteosarcoma: Resection of tumor in right leg today, complicated by
   above issues.
   - ortho following
   .
   # Hypertension: Now more hypotensive (see above).
   - restart metoprolol at 12.5BID
   - hold acei for now
   .
   # PVD:
   - continued statin
   .
   # Hyperlipidemia:
   - continue statin
   .
   # Access:
   - PIV and a-line for now, will remove a-line
   # FEN:
   - will start clears today
   .
   # PPx:
   - lovenox for leg surgery
   .
   ICU Care
   Nutrition:
   Start cardiac diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2179-6-9**] 10:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Once oxygen use is less will transer to surgery.

2179-06-13 07:44:00 Physician Resident Progress Note
TITLE: Progress Note
   24 Hour Events:
   - given lasix 20mgIV x 1
   - started atrax for itching on back
   - started metoprolol 12.5 [**Hospital1 **]
   - hct stable at 30
   - plan on removal of epidural on [**6-13**]
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2179-6-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-6-13**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 80 (71 - 94) bpm
   BP: 138/49(74) {108/42(60) - 148/92(97)} mmHg
   RR: 23 (21 - 35) insp/min
   SpO2: 91%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 64.9 kg (admission): 73.2 kg
   Height: 71 Inch
                  Total In:
                                                                    811 mL
                  PO:
                                                                    620 mL
                  TF:
   IVF:
                                                                    191 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    445 mL
   Urine:
                                                                  1,625 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
                                                                    120 mL
                                                                    105 mL
   Balance:
                                                                   -935 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   VS: 5L NC, RR in 20s-30s,
   GEN: extubated, responsive, NAD
   HEENT: pupils reactive, MMM
   CHEST: CTA B, no wheezing
   CV: RRR, no M
   ABD: soft, NT, ND, +BS
   BACK: epidural in place, large amount of tape and dressing, no rash
   EXT: brace on right leg, jp drain in bloody drainage, ext warm
   Labs / Radiology
   163 K/uL
   10.0 g/dL
   102 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   24 mg/dL
   106 mEq/L
   140 mEq/L
   29.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2179-6-10**]  03:29 PM
                             [**2179-6-10**]  04:21 PM
                             [**2179-6-10**]  08:09 PM
                             [**2179-6-10**]  08:32 PM
                             [**2179-6-11**]  04:44 AM
                             [**2179-6-11**]  01:08 PM
                             [**2179-6-11**]  06:29 PM
                             [**2179-6-12**]  04:37 AM
                             [**2179-6-12**]  06:20 PM
                             [**2179-6-13**]  04:59 AM
   WBC
   17.5
   12.2
   9.4
   Hct
   30.0
   29.2
   29.8
   32.6
   30.0
   30.3
   29.3
   Plt
   137
   134
   163
   Cr
   0.8
   0.7
   0.8
   TCO2
   22
   23
   25
   Glucose
   98
   111
   102
   Other labs: PT / PTT / INR:13.2/34.1/1.1, Differential-Neuts:85.9 %,
   Lymph:7.4 %, Mono:4.1 %, Eos:2.4 %, Lactic Acid:1.1 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   67M w CAD with CABG, COPD, PVD, now s/p resection of osteosarcoma of
   right leg with inability to extubate and continued drainage from leg
   drain, now extubated.
   .
   # Resp Failure: Currently on 5 L NC. Has hx of COPD on oxygen at home
   with new aspiration PNA based on CT chest. Improving, no need for
   steroids.
   - continue levo/flagyl for 7 days. Day 1 [**2179-6-12**].
   - work on weaning oxygen as tolerated
   - sputum cx
   - lasix 20 IV today with goal -1L
   - Nebs Q6H
   .
   # Pain: s/p resection and reconstruction of right leg. Epidural removed
   this morning.
   - po pain meds: standing oxycontin 20 mg [**Hospital1 **] with percocet prn for
   breakthrough.
   # Anemia: Secondary to surgery. Hct stable at 30.
   - active type and sceen
   - transfuse to >30 while actively bleeding
   .
   # Osteosarcoma: Resection of tumor in right leg today, complicated by
   above issues.
   - ortho following
   .
   # Hypertension: continue metoprolol at 12.5BID
   - hold acei for now
   .
   # PVD: continue statin
   .
   # Hyperlipidemia: continue statin
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2179-6-9**] 10:40 PM
   Prophylaxis:
   DVT: Lovenox (held this morning due to epidural removal) , touch base
   with anesthesia when can re-start
   Code status: Full code
   Disposition: Call out to floor
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  67 yo M with cad, cabg, copd on home o2,
   admitted for RLE osteosarcoma resection/reconstruction.  Course c/b
   post-op resp failure requiring reintubation, extubated 3 days
   ago. Continued O2 requirement felt [**2-1**] asp pna. CTA neg for PE.
   Metoprolol restarted.  Epidural d/c'd this am.
   AF  70-90  130/60   20  91-93% 5L  1 L neg/24 hrs
   Alert, NAD, no acc m use
   sym cw excursion, decreased post am, without wheeze, scant b/b rales
   rr
   soft + bs
   rle casted
   Labs: WBC12.2-->9.4, HCT 29.3, K+ 4.0 , Cr 0.8
   Issues include:
     * S/p right leg osteosarcoma removal with reconstruction
     * hypoxia
                pna (asp)
         baseline sig emphysema
          leukocytosis (resolved)
     * anemia (stable)
     * htn
     * pruritis--improved
   Continued O2 requirement in pt with asp pna in setting of significant
   underlying emphysema. Improving slowly with decreasing O2 needs and
   improving leukocytosis on antibx. Agree with plan to continue nebs,
   mucolytics, and levo/flagyl to complete 7 day course for asp pna. As pt
   is improving, not wheezy on exam, and without clear reactive component
   to copd will hold on steroids.  Leukocytosis has resolved with antibx
   and he remains af.  Continue gentle diuresis as fluid likely further
   impacting oxygenation. Continue metoprolol for htn which is better
   controlled. Con
t DVT prophylaxis with lovenox
on hold for epidural
   removal (clarify resuming this pm). Pain well controlled now on
   oxycontin.   Tolerating pos. Start bowel regimen.  Additional post-op
   care per surgical team.
   Remainder of plan as outlined in resident note.
   Stable for floor transfer.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2179-6-13**] 12:37 PM ------